US04079181
One suspends p-nitrobenzyl α-[3-benzyl-7-oxoethylidene)-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylideneacetate (2.265 g) in anhydrous tetrahydrofuran (30 ml), adds dropwise a solution of triethylamine (1.11 g) and methanesulfonyl chloride (630 mg) in tetrahydrofuran (2 ml) at 1 to 2° C, and stirs for 25 minutes. To the produced solution of p-nitrobenzyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate, one adds a solution of morpholine (480 mg) in tetrahydrofuran (2 ml), and stirs for 15 minutes to give a solution of p-nitrobenzyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate, cools to -20° C, adds pyridine (396 mg) and a solution of bromine in carbon tetrachloride (1 mole/liter: 5 ml), pours into diluted hydrochloric acid after 15 minutes, and extracts with ethyl acetate. The extract solution is washed with water, dried over magnesium sulfate, and evaporated. Purification of the obtained residue by chromatography over silica gel (50 g), from the fraction eluted with a mixture of benzene containing 10% ethyl acetate gives p-nitrobenzyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(2-bromo-1-morpholinoethylidene)acetate (2.36 g). Yield: 78%.

reactant | 1-hydroxyethylideneacetate | 2.265 g | OC(C)=CC(=O)[O-]
reactant | methanesulfonyl chloride | 630 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | p-nitrobenzyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O | C23H21N3O8S2
reactant | morpholine | 480 mg | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.11 g | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O | C26H26N4O6S
